US03991045
300 mg (1.23 m-mols) of 1-β-D-arabinofuranosylcytosine (molecular weight 243) was dissolved in 1.6 ml of water, and 5 ml of dioxane (molecular weight 88) was added, followed by a further addition of 415 mg (2.63 m-mols) of butyric anhydride (molecular weight 158). The mixture was stirred at room temperature for 48 hours. The reaction mixture was concentrated at reduced pressure at 60° C to obtain a solid residue. The residue was dried in a vacuum desiccator to obtain a colorless transparent jelly-like substance. Addition of 2 ml of cold water to the substance resulted in the precipitation of crystals. The crystals were rubbed well with a spoon, filtered, and thoroughly washed with cold water to form crystals. The crystals were recrystallized from a mixed solvent of water and ethanol in a volume ratio of 2:1 to form 357 mg (1.14 m-mols, yield 92.7%) of N4 -butyryl-1-β -D-arabinofuranosylcytosine (molecular weight 313) having a melting point of 108° to 110° C.

reactant | 1-β-D-arabinofuranosylcytosine | 300 mg | [C@@H]1([C@@H](O)[C@H](O)[C@H](O1)CO)N1C(=O)N=C(N)C=C1 | C9H13N3O5
reactant | dioxane | 5 ml | O1CCOCC1 | C4H8O2
reactant | butyric anhydride | 415 mg | C(CCC)(=O)OC(CCC)=O | C8H14O3
solvent | water | 1.6 ml | O | H2O
solvent | water | 2 ml | O | H2O
product | N4 -butyryl-1-β -D-arabinofuranosylcytosine | 357 mg, yield 92.7% | C(CCC)(=O)NC1=NC(N(C=C1)[C@H]1[C@@H](O)[C@H](O)[C@H](O1)CO)=O | C13H19N3O6
